US08017630B2
2-(4-Dimethylamino-4-phenyl-cyclohexyl)-N-(4-methoxy-phenyl)-acetamide hydrochloride (Example 61)
Chlorotrimethylsilane (0.097 ml) and water (7 μl) were added to a solution of the less polar diastereoisomer of 2-(4-dimethylamino-4-phenyl-cyclohexyl)-N-(4-methoxy-phenyl)-acetamide (255 mg, 0.7 mmol) in ethyl methyl ketone (2 ml). The hydrochloride was extracted as an oil with hexane and isolated in a quantitative yield.

reactant | Chlorotrimethylsilane | 0.097 ml | Cl[Si](C)(C)C | C3H9ClSi
reactant | water | 7 μl | O | H2O
reactant | 2-(4-dimethylamino-4-phenyl-cyclohexyl)-N-(4-methoxy-phenyl)-acetamide | 0.7 mmol, 255 mg | CN(C1(CCC(CC1)CC(=O)NC1=CC=C(C=C1)OC)C1=CC=CC=C1)C | C23H30N2O2
solvent | ethyl methyl ketone | 2 ml | CC(=O)CC | C4H8O
product | 2-(4-Dimethylamino-4-phenyl-cyclohexyl)-N-(4-methoxy-phenyl)-acetamide hydrochloride | quantitative yield | Cl.CN(C1(CCC(CC1)CC(=O)NC1=CC=C(C=C1)OC)C1=CC=CC=C1)C | InChI=1S/C23H30N2O2.ClH/c1-25(2)23(19-7-5-4-6-8-19)15-13-18(14-16-23)17-22(26)24-20-9-11-21(27-3)12-10-20;/h4-12,18H,13-17H2,1-3H3,(H,24,26);1H
